US07183320B2
4-(tert-butyldimethylsilyloxy)phenylsulfonamide
4-Hydroxyphenylsulfonamide (3.46 g, 20 mmol) is dissolved in DMF (40 mL) and treated with tert-butyl-dimethylsilylchloride (3.31 g, 22.0 mmol) and imidazole (1.50 g, 22.0 mmol) at room temperature. After 20 hr, the reaction mixture is diluted with EtOAc (100 mL) and washed with 1.0 N HCl (2×50 mL). The organic phase is dried (MgSO4), filtered, and concentrated to yield an oil. The crude oil is purified by Biotage column chromatography (40M SiO2 column, eluted at 75 mL/min with 1:1 hexanes:EtOAc). A white solid is obtained (4.24 g, 15.4 mmol, 77%). ESI-MS m/e 288.1 (M++H); mp 117–118° C.; 1H NMR (CDCl3) δ 7.78 (d, 2H), 6.89 (d, 2H), 4.86 (br s, 2H), 0.97 (s, 9H), 0.20 (s, 6H).

reactant | 4-Hydroxyphenylsulfonamide | 20 mmol, 3.46 g | OC1=CC=C(C=C1)S(=O)(=O)N | C6H7NO3S
reactant | tert-butyl-dimethylsilylchloride | 22.0 mmol, 3.31 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 22.0 mmol, 1.50 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-(tert-butyldimethylsilyloxy)phenylsulfonamide | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)S(=O)(=O)N | C12H21NO3SSi
